US09029531B2
Step B: methyl 2-(2-(dimethylamino)thiazol-4-yl)acetate
A solution of methyl 3-oxo-4-thiocyanatobutanoate (350 mg, 2.02 mmol) in THF (4 ml) was added a vessel containing dimethylamine in THF (2M; 1.01 ml, 2.02 mmol), the reaction mixture was stirred at rt for 3 h. LCMS showed that the desired product was detected, the mixture was concentrated to give the residue, the residue was purified by a standard method to give the desired product.

reactant | methyl 3-oxo-4-thiocyanatobutanoate | 2.02 mmol, 350 mg | O=C(CC(=O)OC)CSC#N | C6H7NO3S
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 2.02 mmol, 2M, 1.01 ml | C1CCOC1 | C4H8O
product | methyl 2-(2-(dimethylamino)thiazol-4-yl)acetate | CN(C=1SC=C(N1)CC(=O)OC)C | C8H12N2O2S
